US04835166
5-(3-Phenylpropyl)amino-2-oxindole
By reaction of 5-amino-2-oxindole (1.48 g) with 3-phenylpropanal using the procedure of Example 1, the title compound (1.20 g) was prepared.

reactant | 5-amino-2-oxindole | 1.48 g | NC=1C=C2CC(NC2=CC1)=O | C8H8N2O
reactant | 3-phenylpropanal | C1(=CC=CC=C1)CCC=O | C9H10O
product | 5-(3-Phenylpropyl)amino-2-oxindole | 1.20 g | C1(=CC=CC=C1)CCCNC=1C=C2CC(NC2=CC1)=O | C17H18N2O
